US07452911B2
3.60f 3-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-6,7,8,9-tetrahydro-5H-10-thia-7-aza-benzo[a]azulene
Prepared according to general working method I from 3-iodo-6,7,8,9-tetrahydro-5H-10-thia-7-aza-benzo[a]azulene (770 mg, 2.34 mmol) and 5-(4-chloro-phenyl)-2-ethynyl-pyridine (500 mg, 2.34 mmol).

reactant | 3-iodo-6,7,8,9-tetrahydro-5H-10-thia-7-aza-benzo[a]azulene | 2.34 mmol, 770 mg | IC=1C=CC2=C(C=3CCNCCC3S2)C1 | C12H12INS
reactant | 5-(4-chloro-phenyl)-2-ethynyl-pyridine | 2.34 mmol, 500 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | 3-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-6,7,8,9-tetrahydro-5H-10-thia-7-aza-benzo[a]azulene | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=CC2=C(C=3CCNCCC3S2)C1 | C25H19ClN2S
